US09447029B2
75 mg (0.23 mmol) of N-tert-butoxycarbonyl-2,2-difluoro-2-(3-butoxyphenyl)-ethylamine are dissolved in dry DMF (5 mL). The solution is cooled to 0° C. and NaH (6.7 mg; 1.2 eq) is added. The solution is stirred at RT for 10 min, then cooled again to 0° C. and 2-chloro-N,N-dimethylpropanamide (31 mg; 0.23 mmol) are added. After 4 hours a further 1.2 eq of NaH (6.7 mg) are added. The reaction mixture is stirred overnight at RT, then quenched with water, evaporated, the residue taken up with water and EtAc. The organic layer is separated and the water layer extracted three times with EtAc. The combined organic phases are dried over anhydrous Na2SO4, filtered and evaporated. The resulting crude residue is flash-chromatographed (eluant: petroleum ether/EtAc, 9/1 to 8/2). 2-[N-tert-butoxycarbonyl-2,2-difluoro-2-(3-butoxyphenyl)-ethylamino]-N,N-dimethylpropanamide (84 mg; 81%) is obtained as pale yellow oil.

reactant | N-tert-butoxycarbonyl-2,2-difluoro-2-(3-butoxyphenyl)-ethylamine | 0.23 mmol, 75 mg | C(C)(C)(C)OC(=O)NCC(C1=CC(=CC=C1)OCCCC)(F)F | C17H25F2NO3
reactant | NaH | 6.7 mg, 1.2 eq | [H-].[Na+]
reactant | 2-chloro-N,N-dimethylpropanamide | 0.23 mmol, 31 mg | ClC(C(=O)N(C)C)C | C5H10ClNO
reactant | NaH | 6.7 mg, 1.2 eq | [H-].[Na+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-[N-tert-butoxycarbonyl-2,2-difluoro-2-(3-butoxyphenyl)-ethylamino]-N,N-dimethylpropanamide | 84 mg, 81% | C(C)(C)(C)OC(=O)N(C(C(=O)N(C)C)C)CC(C1=CC(=CC=C1)OCCCC)(F)F | C22H34F2N2O4
